US06362177B1
A mixture of 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(4-chloro-3-nitrobenzyl)piperidine (121 mg, 0.20 mmol), 10% palladium-activated carbon (85 mg), ethyl acetate (10 mL), and methanol (1 mL) was stirred under a hydrogen atmosphere at room temperature for 19 h. The Pd catalyst was filtered off and the filtrate was concentrated to afford 1-(3-amino-4-chlorobenzyl)-4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine (78 mg, 68%).

reactant | 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(4-chloro-3-nitrobenzyl)piperidine | 0.20 mmol, 121 mg | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC(=C(C=C2)Cl)[N+](=O)[O-])C=C(C(=C1)F)F | C27H32ClF2N5O6
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-activated carbon | 85 mg | [Pd] | Pd
solvent | methanol | 1 mL | CO | CH4O
product | 1-(3-amino-4-chlorobenzyl)-4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine | 78 mg, 68% | NC=1C=C(CN2CCC(CC2)CNC(CNC(C2=C(C=C(C(=C2)F)F)NC(=O)OC(C)(C)C)=O)=O)C=CC1Cl | C27H34ClF2N5O4
